US05281593
iii) 6-Chloromethyl-1-[α-phenyl-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]indole
N-Chlorosuccinimide (0.11 g, 0.85 mmol) was added to a stirred solution of 1-[α-phenyl-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]indole-6-methanol (0.33 g, 0.71 mmol) and triphenyl phosphine (0.22 g, 0.85 mmol) in dichloromethane (5 ml). The solution was stirred for 2 hours, then chromatographed on silica eluting with ethyl acetate-hexane (1:3) to give a pale gum.

reactant | N-Chlorosuccinimide | 0.85 mmol, 0.11 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-[α-phenyl-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]indole-6-methanol | 0.71 mmol, 0.33 g | C1(=CC=CC=C1)C(C1=CC(=CC=C1)\C=C\C1=NC2=CC=CC=C2C=C1)N1C=CC2=CC=C(C=C12)CO | C33H26N2O
reactant | triphenyl phosphine | 0.85 mmol, 0.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-Chloromethyl-1-[α-phenyl-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]indole | ClCC1=CC=C2C=CN(C2=C1)C(C1=CC(=CC=C1)\C=C\C1=NC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C33H25ClN2
